*****
V1 1 0 DC 1V
Vramp1 1 7 PWL(0 0 1ns 1v 20ns 1v 20us 1v)
Vramp2 9 0 PWL(0 0 1ns 1v 20ns 1v 20us 1v)
l11 1 4 195nH
l33 8 6 195nH
l44 2 3 195nH
l22 0 5 195nH
k13 l11 l33 0.154
k14 l11 l44 0.154
k12 l11 l22 0.0997
k34 l33 l44 0.839
k32 l33 l22 0.154
k42 l44 l22 0.154
r2 7 8 10
c13 4 6 104fF
c1 4 6 0.1nF
c2 6 5 0.1nF
c34 6 3 5.62pF
c42 3 5 104fF
c3 4 3 0.1nF
c4 3 5 0.1nF
r1 9 2 10


.control
tran 0.5ns 2us
run 
plot v(4)
plot v(5)

.endc 




