
VDD 1 0 DC 1V
Vtest1 1 5 PWL(0 0 1ns 1v 20ns 1v 20us 1v)
Vtest2 6 0 PWL(0 0 1ns 1v 20ns 1v 20us 1v) 


L11 1 2 194nH
L33 4 3 194nH
L44 7 8 194nH
L22 0 9 194nH

K13 L11 L33 0.1543
K14 L11 L44 0.1504
K12 L11 L22 0.0358
K34 L33 L44 0.8434
K32 L33 L22 0.1543
K42 L44 L22 0.1543

C1 2 3 0.1n
C2 3 9 0.1n
C3 2 8 0.1n
C4 8 9 0.1n

C13 2 3 52fF
C13_1 1 4 52fF

C34 3 8 1.31pF
C34_1 4 7 1.31pF

C42 8 9 52fF
C42_1 7 0 52fF

R1 5 4 10
R2 6 7 10

.control
tran 0.1ns 2us
run 
plot v(2) 
plot v(9)

.endc 


