Usefulness of Matched Differential Signaling Arrangement
*
*===================================================================
* DC Supply
vdc P 0 dc 1v
*
*===================================================================
* System A Description
Vramp1 P 1 pwl(0 0 1ns 1v 5us 1v)
R1 1 U 10
Vramp2 2 Q pwl(0 0 1ns 1v 5us 1v)
R2 2 V 10
R3 Q 0 0
*
*===================================================================
* Wire Description
* Self Inductance and Wire Capacitances are modeled as a pi network
* with capacitances on two legs and inductance as the middle branch

* Self Inductances
L1 P R 1.9335e-7
L3 U W 1.9335e-7
L4 V X 1.9335e-7
L2 0 S 1.9335e-7

* Mutual Inductances
K12 L1 L2 0.100783
K13 L1 L3 0.154801
K14 L1 L4 0.154716
K34 L3 L4 0.847344
K32 L3 L2 0.154716
K42 L4 L2 0.154801


* Capacitances between Wires
C13_1 P U 2.04266e-13
C13_2 R W 2.04266e-13
C14_1 P V 1.919165e-13
C14_2 R X 1.919165e-13
C12_1 P Q 1.213565e-13
C12_2 R S 1.213565e-13
C34_1 U V 51.188e-13
C34_2 W X 51.188e-13
C32_1 U Q 1.89432e-13
C32_2 W S 1.89432e-13
C42_1 V Q 1.94834e-13
C42_2 X S 1.94834e-13

* Interconnect to ground capacitance
C1_1 P 0 1.031235e-12
C1_2 R 0 1.031235e-12
C3_1 U 0 0.9715e-12
C3_2 W 0 0.9715e-12
C4_1 V 0 0.99855e-12
C4_2 X 0 0.99855e-12
C2_1 Q 0 1.031235e-12
C2_2 S 0 1.031235e-12
*
*===================================================================
* System B Description
C1 R W 0.1n
C2 R X 0.1n
C3 W S 0.1n
C4 X S 0.1n
*
*===================================================================
* Transient Analysis upto 2us, in steps of 0.1ns
.ic v(R)=1v v(U)=1v v(W)=1v v(V)=0v v(X)=0v v(S)=0v
.tran 0.1ns 2us uic
*
*===================================================================
* .control section
.control
run
plot v(R) v(S)
plot v(R) - v(S)
.endc
* end of control section
*===================================================================
* End Simulation
.end
*===================================================================
